US06573289B1
Production of 1-(1H-Imidazol-4-yl)-2-methyl-1-(6-propoxynaphthalen-2-yl)-1-propanol
In a similar manner to that described in Example 31-(i), the reaction of 1-(6-hydroxynaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol (1.265 g) with 1-bromopropane (0.24 ml) was carried out to give the titled compound (0.711 g) as a colorless solid.

reactant | 1-(6-hydroxynaphthalen-2-yl)-2-methyl-1-(1-trityl-1H-imidazol-4-yl)-1-propanol | 1.265 g | OC=1C=C2C=CC(=CC2=CC1)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H32N2O2
reactant | 1-bromopropane | 0.24 ml | BrCCC | C3H7Br
product | 1-(1H-Imidazol-4-yl)-2-methyl-1-(6-propoxynaphthalen-2-yl)-1-propanol | 0.711 g | N1C=NC(=C1)C(C(C)C)(O)C1=CC2=CC=C(C=C2C=C1)OCCC | C20H24N2O2
